US07915443B2
6-amino-5-iodonicotinic acid
A solution of methyl 6-amino-5-iodonicotinate (723 mg, 2.6 mmol) and potassium hydroxide (729 mg, 13.0 mmol) in 40 mL methanol/H2O (3:1 ratio) was heated at 50° C. After 4 hours 10 mL THF was added and the reaction continued until 22 hours. The reaction was cooled to room temperature and concentrated HCl added until the solution was pH 4. The solution was concentrated to a volume of 15 mL and the resulting precipitate filtered, rinsed with H2O and 40% EtOAc/hexane to give the title compound as a white solid (443 mg, 65%).

reactant | methyl 6-amino-5-iodonicotinate | 2.6 mmol, 723 mg | NC1=NC=C(C(=O)OC)C=C1I | C7H7IN2O2
reactant | potassium hydroxide | 13.0 mmol, 729 mg | [OH-].[K+]
reactant | THF | 10 mL | C1CCOC1 | C4H8O
reactant | HCl | Cl | ClH
solvent | methanol H2O | 40 mL | CO.O
product | 6-amino-5-iodonicotinic acid | 443 mg, 65% | NC1=NC=C(C(=O)O)C=C1I | C6H5IN2O2
